US03985755
B. 5-amino-6-methyl-2-(2-pyridinyl)benzoxazole
A suspension of 6-methyl-5-nitro-2-(2-pyridinyl)benzoxazole (10.0 g, 0.044 mole) and platinum oxide (1.0 g) in 150 ml of ethanol is hydrogenated over a period of 2 hours. The catalyst is separated by filtration and the ethanol removed under vacuum yielding 8.7 g of the title compound.

reactant | 6-methyl-5-nitro-2-(2-pyridinyl)benzoxazole | 0.044 mole, 10.0 g | CC1=CC2=C(N=C(O2)C2=NC=CC=C2)C=C1[N+](=O)[O-] | C13H9N3O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 5-amino-6-methyl-2-(2-pyridinyl)benzoxazole | 8.7 g | NC=1C(=CC2=C(N=C(O2)C2=NC=CC=C2)C1)C | C13H11N3O
